Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
___: EGD and EUS

 
History of Present Illness:
___ Creole speaking s/p lap CCY ___ w/ Dr. ___ 5 
days epigastric+ RUQ abdominal pain w/ nausea and vomiting. 
Patient states she's been unable to eat for 5 days and had 
worsening pain- she has vomited bilious material. She continues 
to have bowel function w/ +flatus/BM. She also complains of
subjective fevers/chills. 

 
Past Medical History:
HTN, hiatal hernia, GERD, gastritis 
 
Social History:
___
Family History:
Sister - cholecystitis and urgent cholecystectomy in ___
Mother - healthy
Father - died years ago, unknown causes
No other GI history in family of malignancy, or emesis.

 
Physical Exam:
On Admission: 
VS:  98.2 129/73 103 18 99 RA
GENERAL: NAD. Comfortable, lying in bed. 
Eyes: Anicteric without conjunctival injection  
ENT: MMM.   
___: RRR, no m/r/g  
LUNGS: CTAB, no w/r/c  
ABDOMEN: Normoactive BS, nondistended, tender on deep palpation
of the epigastrium, otherwise nontender. No rebound/guarding.
SKIN: Warm. Dry.
EXT: well perfused, no edema
NEURO: Oriented x3Fluent speech  
 

 
Pertinent Results:
RECENT LABS:

___ 06:20AM BLOOD WBC-10.6* RBC-4.23 Hgb-9.9* Hct-32.0* 
MCV-76* MCH-23.4* MCHC-30.9* RDW-17.7* RDWSD-46.1 Plt ___
___ 06:20AM BLOOD Glucose-76 UreaN-8 Creat-0.7 Na-140 K-3.8 
Cl-106 HCO3-22 AnGap-16
___ 01:30PM BLOOD ALT-10 AST-18 AlkPhos-62 TotBili-0.5
___ 06:20AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.1
___ 08:50PM BLOOD Lactate-1.3 K-4.5

RADIOLOGY:

___ CT ABD:
IMPRESSION:  
No acute process within the abdomen or pelvis.  Status post 
cholecystectomy.  
Normal appendix.  No abscess. 

___ EGD:
Impression: 
Erosions in the antrum and stomach body
Erythema in the antrum
Normal mucosa in the duodenum
Normal mucosa in the whole esophagus
Otherwise normal EGD to third part of the duodenum 

___ EUS:
Impression: 
EUS was performed using a linear echoendoscope at ___ MHz 
frequency: The head and uncinate pancreas were imaged from the 
duodenal bulb and the second / third duodenum. The body and tail 
[partially] were imaged from the gastric body and fundus. The 
pancreatic parechyma was generally homogenous, with a normal 
“salt and pepper” appearance with only some very mild lobularity 
and hyperechoic strands. Pancreas duct: The pancreas duct 
measured 2 mm in maximum diameter in the head of the pancreas 
and 1 mm in maximum diameter in the body of the pancreas. The 
duct was normal in echotexture and contour. No intra-ductal 
stones were noted. No dilated side-branches were noted.
 
 
Brief Hospital Course:
The patient s/p laparoscopic cholecystectomy on ___ was 
admitted to the General Surgical Service for evaluation of new 
epigastric pain and vomiting. Patient was afebrile with WBC 
20.7. Abdominal CT scan on admission revealed no acute 
intraabdominal process. Patient was recently diagnosed with 
gastritis in OSH and Gastroenterology service was consulted for 
EGD. Patient was made NPO with IV fluids and started on IV 
Pantoprazole BID. Patient was  On HD 1, patient remained 
afebrile, nausea improved and WBC started to downward. On HD 2, 
patient underwent EGD, which demonstrated erosions in the antrum 
and stomach body with 
erythema, concerning for ongoing gastritis. After EGD, patient's 
diet was advanced to regular and was well tolerated. Patient's 
WBC continue to downward, and she was discharged home in stable 
condition.  
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
 Verapamil 240 ER', Ranitidine 300', Omeprazole 20',
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
3.  Omeprazole 20 mg PO Q12H 
RX *omeprazole 20 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*1 
4.  Ranitidine 300 mg PO DAILY  
5.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
1. Abdominal pain
2. Gastritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the surgery service at ___ for evaluation 
of abdominal pain s/p laparoscopic cholecystectomy on ___. 
Your CT scan on admission was negative for any acute process. 
Knowing the history of gastritis, GI team was consulted for EGD. 
Your EGD demonstrated gastritis and home dose PPI was doubled. 
You are now safe to return home to complete your recovery with 
the following instructions:
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
*Please resume all regular home medications , unless 
specifically advised not to take a particular medication.  Also, 
please take any new medications as prescribed.

 
Followup Instructions:
___